US09102688B2
5-Fluoro-2-nitro-benzenesulfonic acid (Intermediate 450)
In a similar fashion using route 39 general procedure 95, 2,4-difluoronitrobenzene (2.0 g, 12.0 mmol) in EtOH (24 ml) and Na2SO3 (3.6 g, 28 mmol) in EtOH:water (32 ml: 40 ml) at 70° C. for 14 h gave the title compound (0.6 g) which was used in the next step without further purification. The structure was confirmed by 1H NMR.

reactant | 2,4-difluoronitrobenzene | 12.0 mmol, 2.0 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | Na2SO3 | 28 mmol, 3.6 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 32 ml | O | H2O
solvent | EtOH | 24 ml | CCO | C2H6O
product | 5-Fluoro-2-nitro-benzenesulfonic acid | 0.6 g | FC=1C=CC(=C(C1)S(=O)(=O)O)[N+](=O)[O-] | C6H4FNO5S
